US07622583B2
4-Chloro -N[5-chloro-2-(2,3-dihydro-pyrido[3,2-b][1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazine 5-chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid, T3P, and Et3N were reacted according to the procedure D to provide the title compound. HPLC purification provided 4-chloro-N-[5-chloro-2-(2,3-dihydro-pyrido[3,2-b][1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide; Reverse phase HPLC gradient acetonitrile 0.1% TFA 20-95% in 4 min: 2.871 min; MS m/z 533.1 (M+H).

reactant | 3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazine 5-chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F.O1C2=C(NCC1)N=CC=C2
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | Et3N | CCN(CC)CC | C6H15N
product | 4-Chloro -N[5-chloro-2-(2,3-dihydro-pyrido[3,2-b][1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)N1C2=C(OCC1)C=CC=N2)C(F)(F)F | C20H13Cl2F3N4O4S
